US05358942
Synthesis of N-2-Hydroxyethyl-N-2-hydroxyheptadecyl-N-methyl amine
To 2-Hydroxy-4-methyl-2-pentadecylmorpholine (1 g, 3.06 mmol) at 0° C. was added NaBH4 (349 mg, 9.17 mmol) over a period of 10 minutes at 0° C., and the reaction mixture was stirred at 0° C. for 6 hours. Then methanol was removed by rotavap, the residue was taken in ether (100 mL) washed with water (2×25 mL), brine, and dried over sodium sulphate. Evaporation of the solvent gave a pure product. Yield (0.98 g, 97%), NMR 1H (CDCl3, 200 MHz) 0.89 (3H, t, CH3) 1.25 (26H, s, CH2) 1.38 (2H, m. CH2) 2.32 (3H, s, N--CH3) 2.3-2.7 (4H, m, CH2) 3.67 (3H, m, CH2OH, CHOH). NMR 13C (CDCl3, 50 MHz) 67.6 64.1, 59.7, 59.3 42.4, 34.9, 31.9, 29.7, 29.3, 25.6, 22.7, 14.1 IR cm--1 3392, 2922, 2853, 1466, 1265, 878, 740.

reactant | 2-Hydroxy-4-methyl-2-pentadecylmorpholine | 3.06 mmol, 1 g | OC1(CN(CCO1)C)CCCCCCCCCCCCCCC | C20H41NO2
reactant | NaBH4 | 9.17 mmol, 349 mg | [BH4-].[Na+]
product | N-2-Hydroxyethyl-N-2-hydroxyheptadecyl-N-methyl amine | OCCN(C)CC(CCCCCCCCCCCCCCC)O | C20H43NO2
